US05665747
1-(4-Methyl-2-thiazolyl)-1-(2-thiazolyl)-2,2,2-tri-fluoroethanol
From 4-methylthiazole and 2-trifluoroacetylthiazole using the general method of Example 6.

reactant | 4-methylthiazole | CC=1N=CSC1 | C4H5NS
reactant | 2-trifluoroacetylthiazole | FC(C(=O)C=1SC=CN1)(F)F | C5H2F3NOS
product | 1-(4-Methyl-2-thiazolyl)-1-(2-thiazolyl)-2,2,2-tri-fluoroethanol | CC=1N=C(SC1)C(C(F)(F)F)(O)C=1SC=CN1 | C9H7F3N2OS2
